US05001125
A mixture of 6.1 parts of 4-(3-methylphenyl)-1-[6-(phenylmethoxy)-3-pyridazinyl]-4-piperidinol and 250 parts of 2-methoxyethanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was boiled in 2-propanol. The product was filtered off and dried, yielding 4.5 parts (97%) of 6-[4-hydroxy-4-(3-methylphenyl)-1-piperidinyl]-3-pyridazinol: mp. 264.6° C. (compound 269).

reactant | 4-(3-methylphenyl)-1-[6-(phenylmethoxy)-3-pyridazinyl]-4-piperidinol | CC=1C=C(C=CC1)C1(CCN(CC1)C=1N=NC(=CC1)OCC1=CC=CC=C1)O | C23H25N3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | 2-methoxyethanol | COCCO | C3H8O2
product | 6-[4-hydroxy-4-(3-methylphenyl)-1-piperidinyl]-3-pyridazinol | 97% | OC1(CCN(CC1)C1=CC=C(N=N1)O)C1=CC(=CC=C1)C | C16H19N3O2
